Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
- Exploratory laparotomy, takedown old gastrojejunostomy, 
gastrogastrostomy, feeding jejunostomy ___ ___
- Reopening of recent laparotomy and closure of gastrostomy 
___ ___

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of active EtOH use 
disorder c/b cirrhosis with ascites, HE, SBP, obesity s/p RYGB 
c/b anastamotic stricture w/ chronic daily emesis and recent SBO 
s/p surgical repair and multiple hospitalizations at ___ for 
ascites, fatigue, hyponatremia, w/ repeat admissions for 
esophageal stricture including recently (discharged ___ for 
abdominal pain and dry heaving thought to be due to stricture 
s/p dilation who now presents for fever and vomiting.  

During her last admission, also had a VRE UTI treated with 
fosfomycin who presents again with fever and vomiting. Patient 
describes getting home the evening of ___ (day of discharge) 
and experienced nausea and vomiting as soon as she started her 
tube feeds. This continued all night. Reportedly patient was 
confused on the morning of ___ after awakening (noted by her 
___ also reported patient had temp of 100.4F via a paper 
thermometer strip but noted that patient also felt warmer. 
Patient also reported increased ascites and right-sided 
abdominal pain.  

For these complaints, patient presented to ___/OSH before 
transfer to ___ ED with patient reportedly given dilaudid 1mg 
x2, Zofran 4mg x1, and ceftriaxone 2gm. Patient reports that she 
was febrile to 101.4F at OSH.  
 
In the ED initial vitals: 98.4, 93, 100/64, 15, 95% RA  
 
CXR at OSH was reported as atelectasis vs pneumonia. Abd XR 
showed mildly distened loops of bowel. ___ Dx para: WBC: 55, RBC 
___. Repeat diagnostic tap at ___ was unrevealing for SBP.  
 
Patient was given Ceftriaxone, Phytonadione 10 mg, and pain 
meds.  

Vitals prior to transfer were 98.1 74 109/56 18 98% RA.  
 
REVIEW OF SYSTEMS: per HPI, denies fever, chills, night sweats, 
headache, vision changes, rhinorrhea, congestion, sore throat, 
cough, shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.
 
Past Medical History:
- s/p gastric bypass c/b stricture of the gastrojejunal 
anastomosis and internal hernia causing SBO  
- alcohol cirrhosis, diagnosed last year; complicated by 
ascites, HE, SBP  
- numerous hospitalizations for abdominal pain, requiring 
paracentesis.
- esophageal stricturing, last dilation ___.  
- depression  
- anxiety  
- obese BMI 30  
- GERD  
- hx of Cdif  
- IBS  
- thrombocytopenia  
- left ankle fusion  
- SBO  
- gastric surgery  
- Chronic fatigue syndrome  
- Depressive disorder  
- Hypertriglyceridemia  
- Hyponatremia
 
Social History:
___
Family History:
- father w/ diabetes
- maternal grandfather has unknown cancer 
- She has no family history of liver disease, hemochromatosis, 
autoimmune diseases, or non-smoker emphysema

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
====================================
VS: T 98.1 | BP 106/65 |HR 81 | RR 18 | O2 94% RA  
GENERAL: Adult female in NAD. Some discomfort due to pain. A+O 
x3. Able to say ___ backwards. No asterixis.
HEENT: Mildly icteric appearing. Face symmetric. PERRL. EOMI 
with some end-gaze nystagmus. MMM.
NECK: Supple. No JVD.
CARDIAC: RRR, S1+S2 with ___ systolic murmur. No rubs or 
gallops.
PULMONARY: Coarse crackles as bases L>R, reduced after cough.
ABDOMEN: Distended, soft. Diffusely tender but markedly tender 
on right side, especially RUQ. Voluntary guarding. No rebound.
BACK: R CVAT
GENITOURINARY: No foley.
EXTREMITIES: WWP. Trace pitting edema of b/L legs. DP 1+ b/L.
SKIN: Warm, dry.
NEUROLOGIC: CN ___ intact.
PSYCHIATRIC: Mildly depressed affect but clear, linear, and 
logical.

DISCHARGE PHYSICAL EXAM:
====================================
VITALS: 98.6  84  108/69   16  94RA
GEN: AOx3, no acute distress, jaundice
HEENT: mild sclera icterus, PERRLA, EMOI
NECK: supple
CARDIAC: RRR, s1/s2
PULM: CTAB/L
ABD: mildly distended, 4cm upper midline incision slow to heal 
with evidence of granulation tissue, soft, nontender, J-tube 
inplace and secured
EXT: warm, well perfused, trace edema, no active ulcerations
 
Pertinent Results:
ADMISSION LABS:
=======================================
___ 10:00PM BLOOD WBC-11.4*# RBC-2.37* Hgb-8.4* Hct-26.2* 
MCV-111* MCH-35.4* MCHC-32.1 RDW-20.5* RDWSD-82.2* Plt Ct-89*
___ 10:00PM BLOOD Neuts-81.4* Lymphs-11.0* Monos-7.0 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-9.26*# AbsLymp-1.25 
AbsMono-0.80 AbsEos-0.01* AbsBaso-0.01
___ 05:38AM BLOOD ___ PTT-37.9* ___
___ 10:00PM BLOOD Glucose-89 UreaN-11 Creat-0.6 Na-137 
K-4.1 Cl-104 HCO3-21* AnGap-16
___ 10:00PM BLOOD ALT-15 AST-50* AlkPhos-72 TotBili-3.6*
___ 10:00PM BLOOD Lipase-70*
___ 10:00PM BLOOD Albumin-2.8* Calcium-8.2* Phos-2.8 Mg-1.6

IMAGING & STUDIES
=======================================
ECG ___ (my read)
Sinus rhythm, normal axis, no ST-T changes, QTc 463/503

RUQ U/S ___:  
IMPRESSION:
1. Patent hepatic vasculature.  
2. CBD measuring 7 mm, larger than expected for the patient's 
age. Comparison with CT is difficult given differences modality, 
but this may be slightly dilated compared to the prior study 
from ___.  
3. Moderate ascites.  
4. Splenomegaly.  
RECOMMENDATION(S): Mild CBD enlargement can be further evaluated 
with MRCP.  

Wrist XR ___
IMPRESSION:  
No acute fracture or dislocation.  No radiographic evidence for 
osteomyelitis. 

CXR ___
FINDINGS:
Enteric tube tip well below diaphragm, tip out of view.  Shallow 
inspiration.  Normal heart size, decreased pulmonary vascularity 
since prior.  No pulmonary edema.  Minimal basilar opacities, 
likely atelectasis, improved since prior.  No consolidation.  No 
pleural effusion.  No pneumothorax.   
IMPRESSION:    
Interval decrease in pulmonary vascularity.  Minimal basilar 
opacities, likely atelectasis. 

CXR ___:
IMPRESSION:
Large volume free peritoneal air 
Left basilar opacity, likely atelectasis, consider aspiration or 
pneumonia if appropriate.

EGD ___:
Findings:
Esophagus:
Mucosa: Normal mucosa was noted.  
Stomach:  
Lumen: Evidence of a previous gastric bypass was seen with a 
stricture was seen at the site of Gastro-Jejunal anastomosis. An 
NJ tube is seen coursing through the stomach past the GJ 
anastomosis - the scope was not able to traverse this stricture. 
 A 15mm balloon was introduced for dilation and the diameter was 
progressively increased to 18 mm successfully.
Duodenum:
Other The small bowel was not seen given stricture.   
Impression: Normal mucosa in the esophagus. Previous gastric 
bypass of the stomach (dilation). The small bowel was not seen 
given stricture.
Otherwise normal EGD to gastric pouch.

CT Abd/Pelvis with contrast ___
1. Patient is status post takedown of gastric bypass. 
2. Small volume ascites with peritoneal enhancement, concerning 
for peritonitis.  No drainable fluid collection. 
3. Limited assessment for anastomotic leak given lack of oral 
contrast 
administration. 
4. Interval placement of a percutaneous jejunostomy tube. 
5. Multiple prominent peritoneal and retroperitoneal lymph 
nodes, likely 
reactive. 
6. Cirrhosis with evidence of portal hypertension demonstrated 
by splenomegaly and varices. 
7. Anasarca. 
8. Ground-glass opacities within the visualized lung bases may 
represent pneumonia.  Small bilateral pleural effusions. 
9. Cholelithiasis. 

UGI with SBFT ___
1. No evidence of leak. 
2. Severely delayed small bowel transit, with oral contrast not 
reaching the ileum after 3.5 hours. 

Abdominal ultrasound ___
Small volume ascites collecting primarily within the left upper 
and lower 
quadrants. 
  
Mammogram ___
Two indeterminate masses in the right breast for which 
ultrasound-guided core biopsy should be considered at this time. 
 Borderline right axillary lymph node, the management of which 
will depend on the biopsy results of the right breast mass. 
Findings reviewed with the patient at the completion of the 
study.  The patient underwent right breast ultrasound-guided 
core biopsy which was performed following completion of the 
diagnostic evaluation after discussion with Dr. ___ 
inpatient care team given the elevated INR. 
BI-RADS:  4B Suspicious - moderate suspicion for malignancy.

CT Abd/Pelvis ___ 
1. Mildly dilated loops of jejunum proximal to the patient's 
jejunal anastomosis, without evidence for complete obstruction.  
Contrast passes into more distal loops of jejunum. 
2. No evidence for leak or intra-abdominal collection. 
3. Stigmata of cirrhosis and portal hypertension, with small to 
moderate volume simple ascites. 
4. Left pleural effusion and diffuse subcutaneous stranding, 
likely related to anasarca. 
5. Prominent retroperitoneal and periportal nodes, likely 
reactive. 

J-tube check ___
1. Successful replacement of a surgically placed J tube with a 
16 ___ MIC jejunal tube.  Contrast injection confirmed 
appropriate positioning. 

CT Abd/Pelvis ___
1. Prominent loops of fluid-filled small bowel measuring up to 
4.8 cm, likely reflective of ileus or partial small bowel 
obstruction.  No transition point is identified and enteric 
contrast is noted throughout the colon.  No intraperitoneal free 
air, pneumatosis intestinalis or portal venous gas. 
2. Post takedown Roux-en-Y gastrojejunostomy with gastrostomy 
and J-tube placement as described above. 
3. Cirrhosis, with findings of portal hypertension including 
moderate volume intraperitoneal ascites and splenomegaly. 
4. Large left pleural effusion with overlying compressive 
atelectasis. 
5. Patchy and confluent opacities in the left upper lobe may 
represent pneumonia in the appropriate clinical setting. 
6. Evaluation for organized fluid collections is limited given 
the lack of 
intravenous contrast. 

CT Chest ___
1. Prominent loops of fluid-filled small bowel measuring up to 
4.8 cm, likely reflective of ileus or partial small bowel 
obstruction.  No transition point is identified and enteric 
contrast is noted throughout the colon.  No intraperitoneal free 
air, pneumatosis intestinalis or portal venous gas. 
2. Post takedown Roux-en-Y gastrojejunostomy with gastrostomy 
and J-tube placement as described above. 
3. Cirrhosis, with findings of portal hypertension including 
moderate volume intraperitoneal ascites and splenomegaly. 
4. Large left pleural effusion with overlying compressive 
atelectasis. 
5. Patchy and confluent opacities in the left upper lobe may 
represent 
pneumonia in the appropriate clinical setting. 
6. Evaluation for organized fluid collections is limited given 
the lack of 
intravenous contrast. 

Abdominal ultrasound ___
Trace perisplenic and left lower quadrant ascites decreased in 
amount compared to the previous ultrasound and CT examinations. 

UGI with SBFT ___
Images were obtained after the administration of contrast at 25 
minutes, 55 minutes, 165 minutes, 4 hours and 45 minutes, and 7 
hours and 45 minutes. Study demonstrates contrast passing 
through the stomach into dilated loops of small bowel, and 
passing into the cecum at 07:00 and 45 minutes. 
  
RUQ Ultrasound ___
1. Of note, this is an extremely limited exam due to patient 
discomfort and recent postoperative status with abdominal 
dressings.  Within these 
limitations, the gallbladder appears sludge filled.  Correlate 
findings to 
LFTs. 
2. Mildly coarsened liver echotexture without obvious focal 
hepatic lesion. 
3. The main portal vein is patent. 
4. Mild splenomegaly, measuring up to 13.8 cm. 
5. Small left pleural effusion 

CT Head ___
No acute intracranial process.

CT Abd/Pelvis ___
1. Multiple dilated small bowel loops measuring up to 5.4 cm are 
mildly more distended since CT abdomen and pelvis ___., Previously measuring up to 4.6 cm, without a discrete 
transition point likely representing an ileus. Contrast is noted 
in the colon and rectum which are unremarkable. 
2.  Post takedown Roux-en-Y gastrojejunostomy with GJ-tube 
unchanged in 
position from ___. 
3. placement as described above. 
4. Cirrhosis with moderate volume ascites and splenomegaly. 

Abdominal US ___
1.  Trace, complex ascites, without a pocket large enough for 
safe paracentesis.
2.  Stigmata of cirrhosis and portal hypertension.

MICROBIOLOGY
=======================================
___ 9:48 pm PERITONEAL FLUID      PERITONEAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___: 
      Reported to and read back by ___ ___ 
13:10. 
      ___ ALBICANS, PRESUMPTIVE IDENTIFICATION.    RARE 
GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 8:05 am PLEURAL FLUID      PLEURAL FLUID. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

___ 3:15 pm BLOOD CULTURE
      Source: Venipuncture 2 OF 2 LEFT ARM. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      PEDIOCOCCUS SPECIES. 
         Isolated from only one set in the previous five days. 

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ @ ___ ON ___ - 
___. 
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS. 

 
Brief Hospital Course:
___ with EtOH cirrhosis c/b ascites/SBP/HE/HRS (Child C, MELD 
___), RYGB c/b anastomotic stricture s/p multiple EGD dilations, 
recently discharged after uncomplicated stricture dilation and 
therapeutic paracentesis, who was readmitted for abdominal pain 
and report of fever and leukocytosis. There was a low suspicion 
for infection given that she remained afebrile and HDS off abx. 
Cultures did not reveal any source of infection. Of note, she 
had a positive UTI on the previous admission with cultures 
growing VRE and therefore Linezolid had been started on ___. 
For her abdominal pain and nausea/vomiting, she underwent 
another EGD with dilation on ___. After the procedure, she 
returned to the hepatology floor and developed worsening 
abdominal pain and distension. A CXR revealed a large amount of 
free air in the peritoneum concerning for a perforation. 
Transplant surgery was consulted for further management.

On ___, the patient was taken to the operating room for 
management of the perforated gastrojejunostomy. An exploratory 
laparotomy, takedown old gastrojejunostomy, and creation of a 
gastrogastrostomy was performed (___). A feeding jejunostomy 
was additionally placed. After the abdomen was closed and the 
patient was extubated, it was recalled that a remaining hole in 
the stomach was not closed. She was therefore re-intubated, the 
abdomen was reopened and the previous gastrostomy site from the 
gastrojejunostomy was repaired. The abdomen was then closed 
without difficulty and the patient was extubated and transferred 
to the PACU in stable condition. Patient's postoperative course 
was complicated by persistent nausea/vomiting, inability to 
tolerate POs, and readmissions to the ICU. Please see below for 
a summary of her hospital course by systems.

#ICU admissions
___

#Neuro
Postoperatively, the patient returned to her baseline mental 
status shortly after extubation. Escitalopram was continued for 
depression/anxiety. Throughout her initial hospital course, she 
had intermittent episodes of severe anxiety requiring PRN 
Ativan. On ___, patient was transferred to the SICU after an 
acute change in her mental status and decreased responsiveness. 
Ammonia levels were normal at 53. She had continued bowel 
movement throughout hospital course with lactulose so hepatic 
encephalopathy not likely. Regardless, lactulose was titrated to 
maintain frequent bowel movements while in the ICU. CT 
noncontrast head showed no acute intracranial process. EEG 
revealed encephalopathy with spikes and frequent epileptiform 
discharges. Neruology was consulted and felt that her frequent 
epileptiform discharges on EEG placed her at significant risk 
for seizure at this time and Keppra 1000 BID was started with 
improvement in epileptiform discharges. Plan to continue Keppra 
until outpatient follow-up with neurology. Cipro (ppx) was 
switched to Bactrim given concern for lowering seizure 
threshold. Over the 3 days in the ICU, her mental status 
improved and she returned to her baseline. Upon transfer to the 
floor and on discharge, she was fully alert, interactive, and 
AOx3.

#Cardiovascular
Midodrine was started on ___ at 2.5mg TID for soft blood 
pressures following the operation. On ___, her hypotension 
persisted despite increase of Midodrine from 2.5 q4->q6. She 
became hypotensive to SBP ___ and was transferred to the SICU 
for further care. She was placed on levophed for blood pressure 
support. Blood pressure improved a few days later and she was 
restarted on Midodrine 5TID and transferred to the floor on ___. 


#Pulmonary
Patient was extubated after her index operation. Patient 
developed a worsening left pleural effusion and shortness of 
breath during her admission. On ___, a CT chest was obtained 
which showed a large left pleural effusion with overlying 
compressive atelectasis. Interventional pulmonology was 
consulted and a thoracentesis was performed on ___ with a 
pigtail left in place. The pigtail was discontinued on ___. 
Fluid cultures were negative although drainage was exudative 
based on Light's criteria.

#Breast
Patient was found to have a right breast mass during this 
hospitalization. A mammogram was performed on ___ which 
revealed two indeterminate masses in the right breast, BIRADS 
4B. An ultrasound guided core biopsy was performed on ___. 
Pathology report showed fibroadipose tissue with blood, fibrin, 
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications. Breast surgery was 
consulted and it was deemed that not no need further work up in 
hospital and patient will f/u with Dr. ___ in breast 
clinic. 

#FENGI: 
Given acute abdomen secondary to perforated gastrojejunostomy, 
the patient underwent an exploratory laparotomy, takedown old 
gastrojejunostomy, gastrogastrostomy, and J-tube placement. Her 
hospital course was complicated by refractory nausea/vomiting 
and PO intolerance. Trickle TFs via NGT were started on POD2 but 
where shortly dc'ed after worsening abdominal distention and 
abdominal pain. An abdominal/pelvic CT was performed on ___ for 
her continued GI symptoms, however no significant fluid 
collections were identified. Surgical JP drain was removed on 
___ and the incision was stitched to prevent drainage of 
ascites. Trickle tube feeds were started on ___ and she was 
transferred back to the surgical floor. TPN was also started 
until tube feeds were advanced further on in her hospital course 
to goal of 60cc/hr. An upper GI with SBF was performed on ___ 
which showed severely delayed small bowel transit, with oral 
contrast not reaching the ileum after 3.5 hours. Unfortunately, 
the contrast in her abdomen was suctioned out before a delayed 
follow-through evaluation could be performed. Over the next few 
weeks, she continued to have high NGT output with multiple 
failed NGT clamp trials secondary to nausea/vomiting. A CT 
abd/pel was performed on ___ which showed mildly dilated loops 
of jejunum proximal to the J-J anastomosis without evidence of 
complete obstruction. However, contrast was found passing into 
more distal loops from the anastomosis. The surgical J-tube was 
slightly dislodaged and replaced successfully by ___ with a ___ 
MIC jejunal tube on ___. EGD was attempted on ___, however she 
had emesis during the procedure when the upper third of the 
esophagus was reached, so the procedure was aborted. EGD was 
small bowel push enteroscopy was later performed on ___ which 
showed erythema and congestion of the stomach and normal small 
bowel enteroscopy to the jejunum to 100cm. CT abd/pel was 
repeated on ___ showing prominent loops of fluid-filled small 
bowel measuring up to 4.8cm. She continued to tolerate TFs but 
had nausea/vomiting with PO trial on ___. An NGT was replaced 
on ___ with >800cc emesis. UGI with SBFT was repeated on ___ 
showing slow transit of fluid through the intestinal system, 
with contrast seen in the cecum after 7 hours and 45 minutes. 
Octreotide was started without much benefit, later discontinued. 
Additionally, she was trialed on erythromycin to improve 
motility, however this resulted in worsened nausea. She was 
transferred to the ICU on ___ for AMS. A repeat CT Abd/Pelvis 
was obtained which showed multiple dilated small bowel loops 
measuring up to 5.4 cm are mildly more distended since CT 
abdomen and pelvis ___, without a discrete transition 
point likely representing an ileus. Contrast from the prior UGI 
was noted to reach the colon and rectum. On arrival to the ICU, 
she was made NPO with NGT to LWS and J-tube to gravity. An 
abdominal ultrasound was performed on ___ which revealed no 
drainable fluid collection. Once her mental status improved, she 
was restarted back on TFs on ___ and tolerated advancement ot 
goal. Her diet was slowly advanced from ___ and by 
discharge, she was tolerating a regular diet. 

#Cirrhosis/Liver Transplant Work-up
Transplant w/u ensued during her hospitalization. On ___, TTE 
revealed LVEF 60-65%, PASP unable to calc. TTE was repeated on 
___ TTE PASP was 27 mmHg. A papsmear was done as her last 
was in ___ with finding of atypical squamous cells. Transplant 
workup was stopped given her delayed recovery from surgery and 
gastrointestinal motility issues.

#Renal
Patient developed hepatorenal syndrome during her hospital 
course with peak Cr level 6.3 on ___. Throughout her course, she 
was taken off lasix and spironolactone. On discharge, the lasix 
was titrated to 20mg daily and the spironolactone remained held.

#HEME:
Post-operatively, she required multiple blood and FFP 
transfusions for resuscitation. Throughout her hospital course 
she received 18 uPRBC, ___ FFP, 1 Plts. 

#ID: Linezolid was continued 24 hours after her operation. Fluid 
from the JP was sent for cell count which was consistent with 
peritonitis. Zosyn was started. On ___, yeast was isolated for 
JP fluid culture ___. Fluc was started on ___. Linezolid was 
discontinued on ___. JP drain output continued to be high 
with worsening renal function. On ___, JP fluid was sent for 
cell count that was consistent with SBP (wbc 2376/poly 62=1473). 
Zosyn was switched to Ceftriaxone. A PICC line was placed for 
antibiotics on ___ with tip at cavoatrial junction. ID was 
consulted on ___ with Vanco and Flagyl added. Antibiotics were 
further changed to Dapto/Zosyn (___). Rare growth of ___ 
___ was isolated. Fluconazole was started. Serum WBC on 
___ increased from 14.7 to 15.4 ua/ucx/bc sent (UA+), Zosyn was 
switched back to ceftriaxone and flagyl. Urine culture was 
negative as were blood cultures from ___ and ___. 
Ceftriaxone/Flagyl was switched to Zosyn on ___. 
Dapto/Zosyn/Flu were discontinued on ___ and patient was started 
on prophylactic SBP prophylaxis with ciprofloxacin. On ___ 
patient was switched from ciprofloxacin to Bactrim for SBP 
prophylaxis given risk of decreasing seizure threshold with 
cipro. PICC line was removed and tip culture was negative. On 
___, she was febrile to 102.3. Blood culture results revealed 
GPCs (___), eventually growing Pediococcus species. She was 
started on Linezolid and treated from ___ per ID 
recommendations. 

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Benzonatate 100 mg PO TID:PRN cough 
2. Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN throat pain 
3. DICYCLOMine ___ mg PO TID W/MEALS 
4. Escitalopram Oxalate 20 mg PO DAILY 
5. FoLIC Acid 1 mg PO DAILY 
6. Furosemide 40 mg PO DAILY 
7. Midodrine 15 mg PO TID 
8. Spironolactone 100 mg PO DAILY 
9. Thiamine 100 mg PO DAILY 
10. TraMADol 50 mg PO QHS:PRN Pain - Moderate 
11. Ciprofloxacin HCl 500 mg PO Q24H 
12. Lactulose 30 mL PO TID 
13. Multivitamins 1 TAB PO DAILY 
14. Omeprazole 40 mg PO DAILY 
15. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID  
2.  Pantoprazole 40 mg PO Q12H  
3.  Sulfameth/Trimethoprim DS 1 TAB PO/NG DAILY  
4.  Furosemide 20 mg PO DAILY  
5.  Lactulose 30 mL PO Q6H  
6.  Midodrine 5 mg PO TID  
7.  Escitalopram Oxalate 20 mg PO DAILY  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Multivitamins 1 TAB PO DAILY  
10.  Thiamine 100 mg PO DAILY  
11. HELD- Spironolactone 100 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until Dr ___ you 
___ to restart
12.Tube Feeding
Continuous tubefeeding over 24 hours: Osmolite 1.5 Cal (or 
equivalent); Full strength. Tube Type: Jejunostomy (JT); 
Placement confirmed. Rate by 60 ml/hr (goal rate)Residual Check: 
Not indicated for tube type Flush w/ 30 mL water Q6H. DX:take 
down GJ/ gastrogastrostomy/malnutrition. Duration: 2 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
E0TOH Cirrhosis
Perforated gastrojejunostomy
Perforated hollow viscus
decompensated liver failure 
___
Malnutrition
R breast nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr. ___ office at ___ for fever 
of 101 or higher, chills, nausea, vomiting, diarrhea, 
constipation, increased abdominal pain, malfunctioning feeding 
tube, pain not controlled by your pain medication, swelling of 
the abdomen or ankles, yellowing of the skin or eyes, inability 
to tolerate food, fluids or medications, the incision sites have 
redness, drainage or bleeding, or any other concerning symptoms.

You may shower, but no tub baths 

No straining or heavy lifting (nothing heavier than 10 pounds)
No driving if taking narcotic pain medication
Do not drink alcohol

Continue tube feeds via the J tube. You may eat as you are able. 
Keep your diet low sodium, and limit all fluids to 1 liter 
daily. You are receiving complete nutrition via the J tube 
feeds, eating and drinking is for comfort only
 
Followup Instructions:
___